US08106064B2
A mixture of (3-chloro-2,5,6-trifluoro-pyridin-4-yl)-acetic acid benzyl ester (29 g, 91.86 mmol), anhydrous THF (180 ml), and 10% palladium on carbon (1 g) was stirred for 4 hr. at room temperature under hydrogen atmosphere. The reaction mixture was then filtered through celite pad and the pad was washed with ethanol. The combined filtrate was evaporated in vacuo and the residue was recrystallized from dichloromethane to afford 16.2 g (78%) of (3-chloro-2,5,6-trifluoro-pyridin-4-yl)-acetic acid as a white solid. m.p. 127-129° C.: 1H NMR (200 MHz, CDCl3) δ 3.97 (2H, d, J=1.6 Hz), 8.50 (1H, br. s).

reactant | (3-chloro-2,5,6-trifluoro-pyridin-4-yl)-acetic acid benzyl ester | 91.86 mmol, 29 g | C(C1=CC=CC=C1)OC(CC1=C(C(=NC(=C1F)F)F)Cl)=O | C14H9ClF3NO2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | (3-chloro-2,5,6-trifluoro-pyridin-4-yl)-acetic acid | 16.2 g, 78% | ClC=1C(=NC(=C(C1CC(=O)O)F)F)F | C7H3ClF3NO2
